US07151105B2
Step 3: 1-Methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-1,2,4-triazole-3-carbaldehyde
To a 4 N solution of HCl (185 mL, 0.74 mol) was added 3-(diethoxymethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-1,2,4-triazole (40.1 g, 0.151 mol), and the reaction mixture was left to stir overnight. To the resulting mixture was added potassium carbonate (166 g) in portions under vigorous stirring, and the resulting mixture was extracted with ethyl acetate (5×300 mL). The organic layer was dried with anhydrous sodium sulfate, and the solvents were removed under vacuum on a rotary evaporator. To the residue was added absolute ether (4×100 mL) to give 27.3 g (94.5%) of the title product as a light-beige powder. Satisfactory C,H,N-analysis was obtained. 1H NMR (400 MHz, DMSO-d6): δ 4.04 (s, 3H), 4.08 (s, 3H), 6.98 (d, J=2 Hz, 1 H), 7.67 (d, J=2 Hz, 1H), 9.95 (s, 1H). LC/MS (API-ES) calcd for C8H9N5O: 191.08, found (M+H+): 192.0 m/z.

reactant | HCl | 0.74 mol, 185 mL | Cl | ClH
reactant | 3-(diethoxymethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-1,2,4-triazole | 0.151 mol, 40.1 g | C(C)OC(C1=NN(C(=N1)C1=CC=NN1C)C)OCC | C12H19N5O2
reactant | potassium carbonate | 166 g | C([O-])([O-])=O.[K+].[K+]
product | 1-Methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-1,2,4-triazole-3-carbaldehyde | 27.3 g, 94.5% | CN1N=C(N=C1C1=CC=NN1C)C=O | C8H9N5O
